US07022460B2
4-(2-Methacryloyloxyethyloxy)-3,4′-dicyanoazobenzene
5.8 g (4-(2-hydroxyethyloxy)-3,4′-dicyanoazobenzene are dissolved in 15 ml dioxane at 65° C.; 2.4 g triethylamine are added. A solution of 3.1 g methacrylic acid chloride in 3 ml dioxane is added and the reaction mixture is stirred at 65° C. for 2 h and then introduced into 350 ml ice-water. The precipitate is filtered off with suction and dried. Purification is carried out by chromatography on silica gel in toluene/THF (½). The yield of 4-(2-methacryloyloxyethyloxy)-3,4′-dicyanoazobenzene is 5.9 g. M.p.=110° C.; max=352 nm (DMF).

reactant | 4-(2-hydroxyethyloxy)-3,4′-dicyanoazobenzene | OCCOC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)C#N)C#N | C16H12N4O2
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic acid chloride | 3.1 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-(2-Methacryloyloxyethyloxy)-3,4′-dicyanoazobenzene | C(C(=C)C)(=O)OCCOC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)C#N)C#N | C20H16N4O3
